US07943609B2
(11S)-11-Methyl-2-(prop-2-ynyloxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A solution of (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol (100 mg, 0.370 mmol) dissolved in 15 mL of DMF was treated with cesium carbonate (241 mg, 0.740 mmol) and propargyl bromide (49 mg, 0.410 mmol) and stirred overnight at ambient temperature. The dark brown mixture was then poured into 150 mL of H2O and stirred for 30 minutes. The mixture was filtered to give a dark brown solid. Chromatography (SiO2, 0-30% CMA/CHCl3) followed by crystallization from ethyl acetate gave 51 mg of the title compound as an off-white solid, mp 184-186° C.

reactant | (11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-2-ol | 0.370 mmol, 100 mg | NC1=NC2=CC=C(C=C2C2=C1N=C1N2[C@H](COC1)C)O | C14H14N4O2
reactant | cesium carbonate | 0.740 mmol, 241 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | propargyl bromide | 0.410 mmol, 49 mg | C(C#C)Br | C3H3Br
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (11S)-11-Methyl-2-(prop-2-ynyloxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 51 mg | C[C@H]1COCC=2N1C1=C(C(=NC3=CC=C(C=C13)OCC#C)N)N2 | C17H16N4O2
